US06005116
(a) 2-Nicotinoylisovaleric acid ethyl ester
Nicotinic chloride hydrochloride (0.9 g), isovaleric acid ethyl ester (2.3 ml), diisopropylamine (2.1 ml) and butyllithium (1.6M hexane solution, 9.4 ml) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 8(a) to obtain the title compound (0.78 g, 44%) as a colorless liquid.

reactant | Nicotinic chloride hydrochloride | 0.9 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | isovaleric acid ethyl ester | 2.3 ml | C(C)OC(CC(C)C)=O | C7H14O2
reactant | diisopropylamine | 2.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.6M, 9.4 ml | C(CCC)[Li]
product | 2-Nicotinoylisovaleric acid ethyl ester | 0.78 g, 44% | C(C)OC(C(C(C)C)C(C1=CN=CC=C1)=O)=O | C13H17NO3
